US06906103B2
(A) Pyrrole-2,5-dicarboxylic acid (31)
Pyrrole-2,5-dicarbaldehyde (0.21 g, 1.71 mmol) was dissolved in 35 ml of hot water and placed in a hot water bath (95-100° C.). A solution of KMnO4 (0.788 g, 5.13 mmol) in 10 ml of water was added dropwise in a period of 5 min. The reaction mixture was stirred at 95-100° C. for 1 h, and was then cooled to 70° C. The brown precipitates (MnO2) were filtered off and washed with water. The filtrate was acidified at 0° C. with 5 M HCl to pH 2, evaporated to dryness, and dried under high vacuum. The product was dissolved in 80 ml of anhydrous EtOH and the solution was filtered through a funnel. The filtrate was evaporated to give a brown solid (0.25 g), which was used in next reaction without further purification. ESI MS: 154.00 (M−H+). 1H NMR (DMSO-d6) δ 12.68 (br. S), 12.17 (s), 6.72 (s).

reactant | Pyrrole-2,5-dicarbaldehyde | 1.71 mmol, 0.21 g | N1C(=CC=C1C=O)C=O | C6H5NO2
reactant | KMnO4 | 5.13 mmol, 0.788 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 35 ml | O | H2O
reactant | water | 10 ml | O | H2O
product | Pyrrole-2,5-dicarboxylic acid | 0.25 g | N1C(=CC=C1C(=O)O)C(=O)O | C6H5NO4
